US05219847
I-7-2: Synthesis of 6-butoxy-α-picoline N-oxide
To a solution of 19.0 g (0.12 mol) of 6-butoxy-α-picoline dissolved in 250 ml of diethyl ether was portionwise added 23.8 g (0.14 mol) of m-chloroperbenzoic acid under ice-cooling. After standing under ice-cooling for one hour, the mixture was further left to stand at room temperature for several days. The reaction mixture was extracted with water and then adjusted to pH=11 with an addition of sodium carbonate. After extraction with chloroform, the extract was concentrated under a reduced pressure to give 11.2 g of the desired product.

reactant | 6-butoxy-α-picoline | 0.12 mol, 19.0 g | C(CCC)OC1=CC=CC(=N1)C | C10H15NO
reactant | m-chloroperbenzoic acid | 0.14 mol, 23.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 6-butoxy-α-picoline N-oxide | 11.2 g | C(CCC)OC=1C=CC=C([N+]1[O-])C | C10H15NO2
